US08471005B2
141e) 4-Chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine
2-Methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (23.25 g, 0.1283 mol) was dissolved in Phosphoryl chloride (114 mL, 1.22 mol) and the reaction was then heated at 75° C. until HPLC showed consumption of starting material. The mixture was reduced and the solution was poured over ice. The solid was then filtered and washed with water to afford the desired product. The product was then allowed to dry under vacuum overnight to provide 25.47 grams of 4-Chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid. 1H NMR (400 MHz, DMSO, d6) δ 8.16 (s, 1H), 7.05 (m, 1H), 6.98 (m, 1H), 2.55 (s, 3H).

reactant | 2-Methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.1283 mol, 23.25 g | CSC1=NN2C(C(N1)=O)=CC=C2 | C7H7N3OS
reactant | Phosphoryl chloride | 1.22 mol, 114 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | ClC1=NC(=NN2C1=CC=C2)SC | C7H6ClN3S
